* D:\UTN\4to\TC2\TC2 - Lucas\TC2\Trabajo_semanal_4\Simulacion\Bessel-Desnormalizado.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vin 0 AC 1
C1 0 N002 2n
R1 N002 Vin 43.06k
X§U1 N003 N002 N003 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
R2_1 N001 N003 28.47k
R2_2 N004 N001 28.47k
C2_2 vout N001 3.8204n
C2_1 0 N004 2n
X§U2 vout N004 vout opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
.lib opamp.sub
.ac dec 10000 100 100000
.backanno
.end
