* D:\UTN\4to\TC2\TC2 - Lucas\TC2\Trabajo_semanal_3\Simulacion\Ejercicio5-PasaAltos-Cheby-Orden3-MFB.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vin 0 AC 1
C1 N002 Vin 1
R1 N002 0 0.6265
X§U1 N003 N002 N003 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
X§U2 N006 N001 N006 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
X§U3 N005 0 N001 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
C2_3 N004 N003 1
C2_1 N004 N001 1
C2_2 N004 N005 1
R2_1 N004 0 0.2089
R2_2 N001 N005 5.4705
R3_1 N007 N006 1
R3_2 Vout N007 1
X§U4 N007 0 Vout opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
.lib opamp.sub
.ac dec 10000 0.001 10
.backanno
.end
