* D:\UTN\4to\TC2\TC2 - Lucas\TC2\Trabajo_semanal_5\Simulacion\Simulacion.asc
* Generated by LTspice 26.0.1 for Windows.
X§XBS170 D G S BS170 ;§pnba D)G)S
VG G 0 5 AC 1
LBIAS S N001 1T Rser=1m
VSB N001 0 2 AC 0
VD D 0 10 AC 0
.include bs170_detailed.lib
.ac dec 100 10 1G
.net V(S,D) VG
* PARAMETROS Y EN DRAIN COMUN
* Add Trace: Y11(VG), Y12(VG)
* Y21(VG) y Y22(VG)
* LBIAS fija VS=2 V en continua y abre en AC
.backanno
.end
