* D:\UTN\4to\TC2\TC2 - Lucas\TC2\Trabajo_semanal_5\Simulacion\Simulacion_source.asc
* Generated by LTspice 26.0.1 for Windows.
X§XBS170 D G S BS170 ;§pnba D)G)S
VG G 0 5 AC 0
VS S 0 2 AC 1
VD D 0 10 AC 0
.include bs170_detailed.lib
.ac dec 100 10 1G
* ENSAYO 2: Source excitado
* V_GD(ac)=0 V, V_SD(ac)=1 V
* Graficar -I(VG) = y12
* Graficar -I(VS) = y22
.backanno
.end
