*-------------------------------------------------------------------
* BS170 SPICE Model (Vishay / Siliconix)
* Includes non-linear Ciss, Coss, Crss capacitances & Body Diode
* Node 1: Drain (D) | Node 2: Gate (G) | Node 3: Source (S)
*-------------------------------------------------------------------
.SUBCKT BS170 1 2 3
M1 9 7 8 8 MM L=10u W=30u
D1 8 1 D_BODY
RG 2 7 10
RD 1 9 1.15
RS 3 8 0.15
CGS 7 8 24.5p
CGD 7 1 3.5p
DBODY 8 1 D_BD
.MODEL MM NMOS (
+ LEVEL=3
+ VTO=2.1
+ KP=0.38
+ THETA=0.08
+ VMAX=1.5e5
+ ETA=0.015
+)
.MODEL D_BODY D (
+ IS=1e-13
+ RS=0.1
+ N=1.0
+ BV=60
+ IBV=10u
+)
.MODEL D_BD D (
+ IS=1e-15
+ CJO=28p
+ VJ=0.8
+ M=0.5
+)
.ENDS BS170

